US05332737
To a mixture of 2,4-dichloro-6-indolin-1-yl-1,3,5-triazine (30 g, 112 mM) and methylene chloride (300 ml) at 0° C. was added a 33% solution of methylamine (30 ml) in IMS. The mixture was allowed to attain ambient temperature. After two days the mixture was washed with water. The methylene chloride layer was separated, dried (MgSO4), and the solvent evaporated. The resultant solid was recrystallised from toluene: ethanol (70:30). There was thus obtained 2-chloro-4-indolin-1-yl-6-methylamino-1,3,5-triazine (24 g, 82% yield). m.p 239°-240° C.; NMR: DMSOd6 : 2.75-2.95 (3H, complex, rotamers, NHMe), 3.05-3.2 (2H, t,CH2 --CH2N--), 4.0-4.2 (2H,q,CH2CH2N) (rotamers), 6.9-7.3(3H, complex, aromatic), 7.9-8.1 (1H, broad, aromatic), 8.1-8.4(1H, broad, NH).

reactant | 2,4-dichloro-6-indolin-1-yl-1,3,5-triazine | 112 mM, 30 g | ClC1=NC(=NC(=N1)Cl)N1CCC2=CC=CC=C12 | C11H8Cl2N4
reactant | methylamine | 30 ml | CN | CH5N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-indolin-1-yl-6-methylamino-1,3,5-triazine | 24 g, 82% yield | ClC1=NC(=NC(=N1)N1CCC2=CC=CC=C12)NC | C12H12ClN5
